US09403801B2
Step 1) tert-butyl 5-((2-chloro-5-cyanopyrimidin-4-yl)amino)hexahydrocyclopenta[c]pyrrole-2(1H)-carboxylate
To a solution of 2,4-dichloropyrimidine-5-carbonitrile (600 mg, 3.4485 mmol) and tert-butyl 5-aminohexahydrocyclopenta[c]pyrrole-2(1H)-carboxylate (936.8 mg, 4.139 mmol) in ethanol (50 mL) was added N,N-diethylethanamine (698.5 mg, 6.903 mmol). The mixture was stirred at rt for 3 h. Then it was concentrated under vacuo, and the residue was purified by silica gel column chromatography (PE/EtOAc (v/v)=5/1) to give the title product as yellow oil (332.5 mg, 26.50%).

reactant | 2,4-dichloropyrimidine-5-carbonitrile | 3.4485 mmol, 600 mg | ClC1=NC=C(C(=N1)Cl)C#N | C5HCl2N3
reactant | tert-butyl 5-aminohexahydrocyclopenta[c]pyrrole-2(1H)-carboxylate | 4.139 mmol, 936.8 mg | NC1CC2C(CN(C2)C(=O)OC(C)(C)C)C1 | C12H22N2O2
reactant | N,N-diethylethanamine | 6.903 mmol, 698.5 mg | C(C)N(CC)CC | C6H15N
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | tert-butyl 5-((2-chloro-5-cyanopyrimidin-4-yl)amino)hexahydrocyclopenta[c]pyrrole-2(1H)-carboxylate | 332.5 mg, 26.50% | ClC1=NC=C(C(=N1)NC1CC2C(CN(C2)C(=O)OC(C)(C)C)C1)C#N | C17H22ClN5O2
